US07687491B2
(6b) Ethyl 1-({4-[5-(4-benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate
The crude product of the title compound was synthesized by conducting the similar reaction to that mentioned in Example 1 (1f) using {4-[5-(4-benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol (95 mg, 0.27 mmol) that was obtained in Example 6 (6a), carbon tetrabromide (0.18 g, 0.54 mmol), triphenylphosphine (0.14 g, 0.54 mmol), ethyl 3-azetidinecarboxylate hydrochloride (67 mg, 0.41 mmol), and N,N-diisopropylethylamine (0.12 ml, 0.68 mmol). Subsequently, the crude product of the title compound thus obtained was purified by thin layer chromatography on a silica gel plate using a mixed solvent of ethyl acetate and hexane (6:4) as the developing solvent to afford the title compound (84 mg) in a yield of 68% as a white crystalline solid.

reactant | {4-[5-(4-benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methanol | 0.27 mmol, 95 mg | C(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=C(SC1)CO | C20H16N2O2S
reactant | carbon tetrabromide | 0.54 mmol, 0.18 g | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.54 mmol, 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl 3-azetidinecarboxylate hydrochloride | 0.41 mmol, 67 mg | Cl.N1CC(C1)C(=O)OCC
reactant | N,N-diisopropylethylamine | 0.68 mmol, 0.12 ml | C(C)(C)N(C(C)C)CC | C8H19N
product | Ethyl 1-({4-[5-(4-benzylphenyl)-1,2,4-oxadiazol-3-yl]-2-thienyl}methyl)azetidine-3-carboxylate | C(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NC(=NO1)C=1C=C(SC1)CN1CC(C1)C(=O)OCC | C26H25N3O3S
